US06803457B1
5-Chloro-2-(isothiazol-5-ylmethoxy)benzylamine
To a mixture of 2-[5-chloro-2-(isothiazol-5-ylmethoxy)benzyl]isoindole-1,3-dione (464 mg, 1.20 mmol), 2-propanol (20 mL), water (2.5 mL), and THF (25 mL) was added NaBH4 (295 mg, 7.80 mmol). The reaction was stirred at room temperature for 16 h. The organic solvent was then removed by rotary evaporation and the resulting oil was taken up in CH2Cl2 (50 mL). The organic layer was washed with water (50 mL), saturated aqueous NaCl (50 mL), dried over NaSO4, filtered, and concentrated on a rotary evaporator. This material was taken up in 2-propanol (20 mL), glacial acetic acid (1.2 mL), and water (1.0 mL) and the reaction was heated to 80° C. in a sealed tube for 24 h. The organic solvent was then removed by rotary evaporation and the resulting oil was taken up in CH2Cl2 (50 mL). The organic layer was washed with water (50 mL), saturated aqueous NaCl (50 mL), dried over NaSO4, filtered, and concentrated on a rotary evaporator to afford the title compound.

reactant | 2-[5-chloro-2-(isothiazol-5-ylmethoxy)benzyl]isoindole-1,3-dione | 1.20 mmol, 464 mg | ClC=1C=CC(=C(CN2C(C3=CC=CC=C3C2=O)=O)C1)OCC1=CC=NS1 | C19H13ClN2O3S
reactant | 2-propanol | 20 mL | CC(C)O | C3H8O
reactant | water | 2.5 mL | O | H2O
reactant | NaBH4 | 7.80 mmol, 295 mg | [BH4-].[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 5-Chloro-2-(isothiazol-5-ylmethoxy)benzylamine | ClC=1C=CC(=C(CN)C1)OCC1=CC=NS1 | C11H11ClN2OS
